US04460580
A mixture of 7.0 g of α-(aminomethyl)-2-furan-methanol and 7.5 g of 2,3-dihydro-2,2-dimethyl-6-(2-bromoethoxy)-4H-1,3-benzoxazin-4-one is melted and the melt is stirred for 1 hour in a bath at about 110°. 50 ml of isopropanol and 2 ml of concentrated ammonia solution are added to the reaction mixture whilst this is still warm, the mixture is boiled for 5 minutes and filtered and the filtrate is allowed to cool. After working up, α-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-aminomethyl]-2-furanmethanol with a melting point of 169°-171° is obtained.

reactant | α-(aminomethyl)-2-furan-methanol | 7.0 g | NCC(O)C=1OC=CC1 | C6H9NO2
reactant | 2,3-dihydro-2,2-dimethyl-6-(2-bromoethoxy)-4H-1,3-benzoxazin-4-one | 7.5 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCCBr)C | C12H14BrNO3
reactant | ammonia | 2 ml | N | H3N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | α-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-aminomethyl]-2-furanmethanol | C(N)(=O)C=1C=C(OCCNCC(O)C=2OC=CC2)C=CC1O | C15H18N2O5
